US04251659
The crude 1-benzhydryl-α,α-bis(chlorodifluoromethyl)-2,3-dihydro-1H-indole-5-methanol is dissolved in a mixture of 200 ml of alcohol and 20 ml of concentrated hydrochloric acid and is hydrogenated at an initial pressure of three atmospheres in the presence of 1.5 g of 10% palladium on charcoal in a Parr shaker apparatus until no further change of pressure is observed. The catalyst is filtered off, and the filtrate is evaporated. The residue is evaporated repeatedly with toluene to remove traces of water. Trituration of the residue with toluene gives crystals, which are filtered off to give 6.2 g of α,α-bis(chlorodifluoromethyl)-2,3-dihydro-1H-indole-5-methanol hydrochloride, m.p. 224°-228° (dec.). For analysis a portion is recrystallized from nitromethane to give crystals, m.p. 228°-229° (dec.). The structure is confirmed by nmr spectroscopy and elemental analysis:

reactant | 1-benzhydryl-α,α-bis(chlorodifluoromethyl)-2,3-dihydro-1H-indole-5-methanol | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCC2=CC(=CC=C12)C(O)(C(F)(F)Cl)C(F)(F)Cl | C24H19Cl2F4NO
solvent | hydrochloric acid | 20 ml | Cl | ClH
catalyst | palladium on charcoal | 1.5 g | [Pd] | Pd
product | α,α-bis(chlorodifluoromethyl)-2,3-dihydro-1H-indole-5-methanol hydrochloride | 6.2 g | Cl.ClC(C(O)(C=1C=C2CCNC2=CC1)C(F)(F)Cl)(F)F | InChI=1S/C11H9Cl2F4NO.ClH/c12-10(14,15)9(19,11(13,16)17)7-1-2-8-6(5-7)3-4-18-8;/h1-2,5,18-19H,3-4H2;1H
